US05695684
12.5 g of 6-decylaniline, 5.0 g of 3-nitrobenzenesulfonic acid, 1.5 g of iron (II) sulfide, 10 ml of sulfuric acid, and 2.8 g of boric acid were dissolved in 13 ml of glycerin (glycerol), followed by stirring for 6 hours at 140° C. After the reaction, the reaction mixture was poured into water and alkalinized by adding thereto an appropriately amount of sodium hydroxide aqueous solution, followed by extraction with diethyl ether. The organic layer was washed with water, dried with anhydrous sodium sulfate and subjected to distilling-off of the solvent, followed by purification by silica gel column chromatography to obtain 2.0 g of 6-decylquinoline.

reactant | 6-decylaniline | 12.5 g | C(CCCCCCCCC)C1=CC=CC=C1N | C16H27N
reactant | 3-nitrobenzenesulfonic acid | 5.0 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)O | C6H5NO5S
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | boric acid | 2.8 g | B(O)(O)O | BH3O3
solvent | glycerin | 13 ml | OCC(O)CO | C3H8O3
catalyst | iron (II) sulfide | 1.5 g | [Fe]=S
solvent | water | O | H2O
product | 6-decylquinoline | 2.0 g | C(CCCCCCCCC)C=1C=C2C=CC=NC2=CC1 | C19H27N
